### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Galois): prorepresentability of fiber functors

### PR DESCRIPTION
**Pull request by chrisflav**
We show that a fiber functor of a Galois category is pro-represented by the system of pointed Galois objects. We also introduce the system of automorphism groups (seen as objects of `C`) of the pointed Galois objects.

This is used in a follow-up PR to establish a group isomorphism between the automorphism group of a fiber functor and the limit of the automorphism groups of the Galois objects.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 1]
```diff
@@ -202,14 +202,37 @@ noncomputable def fiberEqualizerEquiv {X Y : C} (f g : X ⟶ Y) :
   · exact Types.equalizerIso (F.map f) (F.map g)
 
 /-- The fiber of the pullback is the fiber product of the fibers. -/
-@[simp]
 noncomputable def fiberPullbackEquiv {X A B : C} (f : A ⟶ X) (g : B ⟶ X) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Basic.lean:205]: I am ok for removing the `simp` attribute, but then I believe that you should add `simp` lemmas similar to `fiberBinaryProductEquiv_symm_fst_apply`.

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 2]
```diff
@@ -202,14 +202,37 @@ noncomputable def fiberEqualizerEquiv {X Y : C} (f g : X ⟶ Y) :
...
   · exact PreservesPullback.iso (F ⋙ FintypeCat.incl) f g
   · exact Types.pullbackIsoPullback (F.map f) (F.map g)
 
+/-- The fiber of the binary product is the binary product of the fibers. -/
+noncomputable def fiberBinaryProductEquiv (X Y : C) :
+    F.obj (X ⨯ Y) ≃ F.obj X × F.obj Y := by
+  apply Iso.toEquiv
+  apply Iso.trans
+  · exact PreservesLimitPair.iso (F ⋙ FintypeCat.incl) X Y
+  · exact Types.binaryProductIso (F.obj X) (F.obj Y)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Basic.lean:218]:
```suggestion
noncomputable def fiberBinaryProductEquiv (X Y : C) :
    F.obj (X ⨯ Y) ≃ F.obj X × F.obj Y :=
  (PreservesLimitPair.iso (F ⋙ FintypeCat.incl) X Y ≪≫
    Types.binaryProductIso (F.obj X) (F.obj Y)).toEquiv
```
(I think that `fiberEqualizerEquiv` and `fiberPullbackEquiv` should be modified similarly.)

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 3]
```diff
@@ -227,6 +250,28 @@ lemma evaluation_aut_injective_of_isConnected (A : C) [IsConnected A] (a : F.obj
...
+/-- A morphism from an object `X` with non-empty fiber to a connected object `A` is an
+epimorphism. -/
+lemma epi_of_nonempty_of_isConnected {X A : C} [IsConnected A] [h : Nonempty (F.obj X)]
+    (f : X ⟶ A) : Epi f := Epi.mk <| fun {Z} u v huv ↦ by
+  obtain ⟨x⟩ := h
+  apply evaluationInjective_of_isConnected F A Z (F.map f x)
+  convert_to F.map (f ≫ u) x = F.map (f ≫ v) x
+  rw [F.map_comp]; rfl
+  rw [F.map_comp]; rfl
+  rw [huv]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Basic.lean:262]:
```suggestion
  simpa using congr_fun (F.congr_map huv) x
```

Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Basic.lean:262]:
```suggestion
  apply evaluationInjective_of_isConnected F A Z (F.map f (Classical.arbitrary _))
  simpa using congr_fun (F.congr_map huv) _
```

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 4]
```diff
@@ -273,6 +318,24 @@ lemma cardFiber_eq_of_iso {X Y : C} (i : X ≅ Y) : Nat.card (F.obj X) = Nat.car
   have e : F.obj X ≃ F.obj Y := Iso.toEquiv (mapIso (F ⋙ FintypeCat.incl) i)
   exact Nat.card_eq_of_bijective e (Equiv.bijective e)
 
+/-- The cardinality of morphisms `A ⟶ X` is smaller than the cardinality of
+the fiber of the target if the source is connected. -/
+lemma cardHom_le_cardFiber_of_connected (A X : C) [IsConnected A] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Basic.lean:323]:
```suggestion
lemma card_hom_le_card_fiber_of_connected (A X : C) [IsConnected A] :
```

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 5]
```diff
@@ -273,6 +318,24 @@ lemma cardFiber_eq_of_iso {X Y : C} (i : X ≅ Y) : Nat.card (F.obj X) = Nat.car
...
+    Nat.card (A ⟶ X) ≤ Nat.card (F.obj X) := by
+  have h : Nonempty (F.obj A) := inferInstance
+  obtain ⟨a⟩ := h
+  apply Nat.card_le_card_of_injective
+  exact evaluationInjective_of_isConnected _ _ _ a
+
+/-- If `A` is connected, the cardinality of `Aut A` is smaller than the cardinality of the
+fiber of `A`. -/
+lemma cardAut_le_cardFiber_of_connected (A : C) [IsConnected A] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Basic.lean:332]:
```suggestion
lemma card_aut_le_card_fiber_of_connected (A : C) [IsConnected A] :
```
(There might be other names which should be changed accordingly.)

File: Mathlib/CategoryTheory/Galois/Basic.lean [hunk 6]
```diff
@@ -273,6 +318,24 @@ lemma cardFiber_eq_of_iso {X Y : C} (i : X ≅ Y) : Nat.card (F.obj X) = Nat.car
...
   exact Nat.card_eq_of_bijective e (Equiv.bijective e)
 
+/-- The cardinality of morphisms `A ⟶ X` is smaller than the cardinality of
+the fiber of the target if the source is connected. -/
+lemma cardHom_le_cardFiber_of_connected (A X : C) [IsConnected A] :
+    Nat.card (A ⟶ X) ≤ Nat.card (F.obj X) := by
+  have h : Nonempty (F.obj A) := inferInstance
+  obtain ⟨a⟩ := h
+  apply Nat.card_le_card_of_injective
+  exact evaluationInjective_of_isConnected _ _ _ a
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Basic.lean:328]:
```suggestion
  apply Nat.card_le_card_of_injective
  exact evaluation_aut_injective_of_isConnected _ _ (Classical.arbitrary _)
```

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 7]
```diff
@@ -0,0 +1,235 @@
...
+    simp only [F.map_comp, FintypeCat.comp_apply, f.comp, g.comp]
+
+instance {A B : PointedGaloisObject F} : Coe (Hom A B) (A.obj ⟶ B.obj) where
+  coe f := f.val
+
+variable {F}
+
+@[ext]
+lemma Hom.ext {A B : PointedGaloisObject F} {f g : A ⟶ B} (_ : f.val = g.val) : f = g :=
+  match f, g with | ⟨_, _⟩, ⟨_, _⟩ => by congr
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:84]: The following syntax seems easier to read:
```suggestion
  cases f; cases g; congr
```

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 8]
```diff
@@ -0,0 +1,235 @@
...
+  /-- The distinguished point of `A` is mapped to the distinguished point of `B`. -/
+  comp : F.map val A.pt = B.pt
+
+/-- The category of pointed Galois objects. -/
+instance : Category.{u₂} (PointedGaloisObject F) where
+  Hom A B := Hom A B
+  id A := ⟨𝟙 (A : C), by simp⟩
+  comp {A B C} f g := by
+    refine ⟨f.val ≫ g.val, ?_⟩
+    simp only [F.map_comp, FintypeCat.comp_apply, f.comp, g.comp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:75]:
```suggestion
  id A := { val := 𝟙 (A : C) }
  comp {A B C} f g := { val := f.val ≫ g.val }
```

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 9]
```diff
@@ -0,0 +1,235 @@
...
+variable {F}
+
+@[ext]
+lemma Hom.ext {A B : PointedGaloisObject F} {f g : A ⟶ B} (_ : f.val = g.val) : f = g :=
+  match f, g with | ⟨_, _⟩, ⟨_, _⟩ => by congr
+
+@[simp]
+lemma Hom.map_point {A B : PointedGaloisObject F} (f : A ⟶ B) :
+    F.map f A.pt = B.pt :=
+  f.comp
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:89]: Making `Hom.comp` a simp lemma above makes this one redundant:
```suggestion
```

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 10]
```diff
@@ -0,0 +1,235 @@
...
+
+@[simp]
+lemma id_val (A : PointedGaloisObject F) : 𝟙 A = 𝟙 A.obj :=
+  rfl
+
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:95]: (We may occasionally want to use the `_assoc` version in the other direction.)
```suggestion
@[simp, reassoc]
```

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 11]
```diff
@@ -0,0 +1,235 @@
...
+      <| (fiberBinaryProductEquiv F A B).symm (a, b)
+    refine ⟨⟨Z, z, hgal⟩, ⟨f ≫ prod.fst, ?_⟩, ⟨f ≫ prod.snd, ?_⟩, trivial⟩
+    · simp only [F.map_comp, hfz, FintypeCat.comp_apply, fiberBinaryProductEquiv_symm_fst_apply]
+    · simp only [F.map_comp, hfz, FintypeCat.comp_apply, fiberBinaryProductEquiv_symm_snd_apply]
+  cone_maps := fun ⟨A, a, _⟩ ⟨B, b, _⟩ ⟨f, hf⟩ ⟨g, hg⟩ ↦ by
+    obtain ⟨Z, h, z, hgal, hhz⟩ := exists_hom_from_galois_of_fiber F A a
+    refine ⟨⟨Z, z, hgal⟩, ⟨h, hhz⟩, Hom.ext ?_⟩
+    apply evaluationInjective_of_isConnected F Z B z
+    show F.map (h ≫ f) z = F.map (h ≫ g) z
+    simp only [map_comp, FintypeCat.comp_apply, hhz, hf, hg]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:115]:
```suggestion
    simp [hhz, hf, hg]
```

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 12]
```diff
@@ -0,0 +1,235 @@
...
+  obj := fun A ↦ A
+  map := fun ⟨f, _⟩ ↦ f
+
+@[simp]
+lemma incl_obj (A : PointedGaloisObject F) : (incl F).obj A = A :=
+  rfl
+
+@[simp]
+lemma incl_map {A B : PointedGaloisObject F} (f : A ⟶ B) : ((incl F).map f) = f.val :=
+  rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:128]:
```suggestion
lemma incl_map {A B : PointedGaloisObject F} (f : A ⟶ B) : (incl F).map f = f.val :=
  rfl
```

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 13]
```diff
@@ -0,0 +1,235 @@
...
+/-- `F ⋙ FintypeCat.incl` as a cocone over `(can F).op ⋙ coyoneda`.
+This is a colimit cocone (see `PreGaloisCategory.isColimìt`) -/
+def cocone : Cocone ((incl F).op ⋙ coyoneda) where
+  pt := F ⋙ FintypeCat.incl
+  ι := {
+    app := fun ⟨A, a, _⟩ ↦ { app := fun X (f : (A : C) ⟶ X) ↦ F.map f a }
+    naturality := fun ⟨A, a, _⟩ ⟨B, b, _⟩ ⟨f, (hf : F.map f b = a)⟩ ↦ by
+      ext Y (g : (A : C) ⟶ Y)
+      suffices h : F.map g (F.map f b) = F.map g a by
+        simpa
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:139]:
```suggestion
      suffices h : F.map g (F.map f b) = F.map g a by simpa
```

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 14]
```diff
@@ -0,0 +1,235 @@
...
+  · intro (x : F.obj X)
+    obtain ⟨Y, i, y, h1, _, _⟩ := fiber_in_connected_component F X x
+    obtain ⟨Z, f, z, hgal, hfz⟩ := exists_hom_from_galois_of_fiber F Y y
+    refine ⟨⟨Z, z, hgal⟩, f ≫ i, ?_⟩
+    simp only [mapCocone_ι_app, evaluation_obj_map, cocone_app, map_comp,
+      ← h1, FintypeCat.comp_apply, hfz]
+  · intro ⟨A, a, _⟩ ⟨B, b, _⟩ (u : (A : C) ⟶ X) (v : (B : C) ⟶ X) (h : F.map u a = F.map v b)
+    obtain ⟨⟨Z, z, _⟩, ⟨f, hf⟩, ⟨g, hg⟩, _⟩ :=
+      @IsFilteredOrEmpty.cocone_objs (PointedGaloisObject F)ᵒᵖ _ _
+      ⟨{ obj := A, pt := a}⟩ ⟨{obj := B, pt := b}⟩
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:161]: This syntax allows to avoid `@` in many situations:
```suggestion
      IsFilteredOrEmpty.cocone_objs (C := (PointedGaloisObject F)ᵒᵖ)
        ⟨{ obj := A, pt := a}⟩ ⟨{obj := B, pt := b}⟩
```

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 15]
```diff
@@ -0,0 +1,235 @@
...
+-/
+import Mathlib.Algebra.Category.GroupCat.Basic
+import Mathlib.CategoryTheory.Galois.Decomposition
+import Mathlib.CategoryTheory.Limits.FunctorCategory
+
+/-!
+# Pro-Representability of fiber functors
+
+We show that any fiber functor is pro-representable, i.e. there exists a pro-object
+`X : I ⥤ C` such that `F` is naturally isomorphic to `X ⋙ coyoneda`.
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/Prorepresentability.lean:14]: Do not you mean the *colimit* of `X ⋙ coyoneda`?

File: Mathlib/CategoryTheory/Galois/Basic.lean (hunk 3 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Basic.lean]: Very neat!

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean (hunk 7 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Prorepresentability.lean]: I later learned (from looking at one of your PRs) that I can put `@[ext]` on a structure, so I introduced a `hom_ext` instead which just uses the automatically generated one. Is that the preferred way?

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean (hunk 15 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Prorepresentability.lean]: Indeed, that's what I mean.

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean [hunk 16]
```diff
@@ -0,0 +1,235 @@
...
+    rw [map_comp, FintypeCat.comp_apply, hf, map_comp, FintypeCat.comp_apply, hg, h]
+
+instance : HasColimit ((incl F).op ⋙ coyoneda) where
+  exists_colimit := ⟨cocone F, isColimit F⟩
+
+variable {F}
+
+/-- A morphism of pointed Galois objects induces a map on automorphism groups
+of the underlying objects in `C`. This is a group homomorphism (see `autMapMul`). -/
+noncomputable def autMap {A B : PointedGaloisObject F} (f : A ⟶ B) (σ : Aut A.obj) : Aut B.obj :=
```
[the remark this answers is not in the document]
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/Prorepresentability.lean]: Nice observation! I did as you suggested and it seems to play out well.

**Comment by chrisflav** [comment]
Thanks for the fast review @joelriou! I adapted your suggestions.

File: Mathlib/CategoryTheory/Galois/GaloisObjects.lean [hunk 17]
```diff
@@ -95,6 +95,106 @@ instance isPretransitive_of_isGalois (X : C) [IsGalois X] :
...
+@[simp]
+lemma autMap_apply_mul {A B : C} [IsConnected A] [IsGalois B] (f : A ⟶ B) (σ τ : Aut A) :
+    autMap f (σ * τ) = autMap f σ * autMap f τ := by
+  let F := GaloisCategory.getFiberFunctor C
+  obtain ⟨a⟩ := nonempty_fiber_of_isConnected F A
+  apply evaluation_aut_injective_of_isConnected F (B : C) (F.map f a)
+  simp [Aut.Aut_mul_def]
+
+/-- `MonoidHom` version of `autMap`. -/
+noncomputable def autMapMul {A B : C} [IsConnected A] [IsGalois B] (f : A ⟶ B) :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Galois/GaloisObjects.lean:192]: There should be an equational lemma for `autMapMul` (a better name might be `autMapHom`?) in order to ease the definition of `autGaloisSystem`. Adding `@[simps]` or `@[simps apply]`? may give the correct lemma.

File: Mathlib/CategoryTheory/Galois/Prorepresentability.lean (hunk 7 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Galois/Prorepresentability.lean]: Yes, any of these two options is good.

File: Mathlib/CategoryTheory/Galois/GaloisObjects.lean (hunk 17 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Galois/GaloisObjects.lean]: `@[simps!]` worked.

**Comment by joelriou** [comment]
Thanks!

bors merge
